US06894061B2
2-(Hydroxymethyl)-4-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol
A stirred solution of crude 2-hydroxy-5-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]benzoic acid (1.75 g, 4.43 mmol) in anhydrous tetrahydrofuran (20 mL) was treated drop-wise at room temperature under nitrogen via syringe with 10 M borane-methyl sulfide complex (1.5 mL, 15 mmol). After stirring four hours at room temperature, the reaction was quenched with methanol (20 mL), concentrated in vacuo, diluted with water, and extracted with ethyl acetate. The organic phase was washed sequentially with an aqueous solution of potassium carbonate, water, a saturated, aqueous, sodium chloride solution, a 1 N hydrochloric acid solution, and water. The organic phase was dried over anhydrous sodium sulfate, filtered through a short column of silica gel, and eluted with ethyl acetate. The ethyl acetate phase was evaporated in vacuo to a crude oil (1.2 g). The crude oil was purified by preparative chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g) with gradient elution of between 10% to 55% methyl tert-butyl ether in hexane at a flow rate of 50 mL/min; and afforded, after evaporation of the solvent, a colorless oil (0.687 g. 1.8 mmol). Crystallization of the colorless oil from diethyl ether yielded the title compound (0.6 g, 1.57 mmol, 35%) as a homogeneous, colorless, crystalline, solid, m.p. 182-184° C.;

reactant | 2-hydroxy-5-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]benzoic acid | 4.43 mmol, 1.75 g | OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C | C21H17NO5S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(Hydroxymethyl)-4-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol | 1.57 mmol, 0.6 g, 35% | OCC1=C(C=CC(=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C)O | C21H19NO4S
